US07858640B2
2-(2-chloro-4-methanesulfonylbenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide
The title compound was prepared by the method of Preparation 34b using 3-amino-4-fluorophenol and 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester.

reactant | 3-amino-4-fluorophenol | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S2
product | 2-(2-chloro-4-methanesulfonylbenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide | ClC1=C(CC(C(=O)NC2=C(C=CC(=C2)O)F)C(C)=O)C=CC(=C1)S(=O)(=O)C | C18H17ClFNO5S
